US07700594B2
To a mixture of 6-bromo-7-fluoro-1-methyl-1H-indole (420 mg, 1.84 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (514 mg, 2.02 mmol), potassium acetate (542 mg, 5.52 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1 complex, 150 mg, 0.184 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (102 mg, 0.184 mmol) was added dioxane (10 mL) and the mixture was degassed by bubbling through with nitrogen for 3 min. The reaction mixture was heated at 100° C. overnight then the dioxane was removed under reduced pressure and the residue was dissolved in DCM and filtered to remove inorganics. The filtrate was concentrated and the crude product was purified by column chromatography over silica gel eluting with EtOAc/hexane to afford pure 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole. 1H NMR (400 MHz, CDCl3) δ=1.41 (s, 12H), 4.02 (d, J=2.02 Hz, 3H), 6.46 (t, J=2.65 Hz, 1H), 7.03 (d, J=3.03 Hz, 1H) and 7.28-7.47 (m, 2H); MS (ES+): m/z 276.03 [MH+].

reactant | 6-bromo-7-fluoro-1-methyl-1H-indole | 1.84 mmol, 420 mg | BrC1=CC=C2C=CN(C2=C1F)C | C9H7BrFN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 2.02 mmol, 514 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 5.52 mmol, 542 mg | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.184 mmol, 150 mg | ClCCl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.184 mmol, 102 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | FC=1C(=CC=C2C=CN(C12)C)B1OC(C(O1)(C)C)(C)C | C15H19BFNO2
